US06858638B2
N-[3-(2-Aminophenyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide can be obtained in the following way: 59 mg of powdered iron are added in small fractions to a solution, at reflux, of 280 mg of N-[3-(2-nitrophenyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide, 10 ml of ethanol, 82 μl of distilled water and 51 μl of 12 N hydrochloric acid, and the reaction medium is then brought to reflux for 3 hours. After returning to a temperature in the region of 20° C., the suspension is filtered, and washed with ethanol. The filtrate is diluted with water and brought to a pH in the region of 10 with a 1 N sodium hydroxide solution. The filtrate is extracted with ethyl acetate and the remaining insoluble material is removed by filtration. The organic phase is washed with distilled water, dried with magnesium sulfate, treated with 3S black, filtered and concentrated to dryness under reduced pressure. The foam thus obtained is triturated with diisopropyl ether, filtered and dried. 40 mg of N-[3-(2-aminophenyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide are thus obtained in the form of a white amorphous solid solvated with 1 mol of diisopropyl ether (analysis C20H18N4O4S2C6H14O % calculated C, 57.33; H, 5.92; N, 10.29; O, 14.69; S, 11.77. % found C, 57.41; H, 5.96; N, 10.01; S, 11.26).

reactant | N-[3-(2-nitrophenyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide | 280 mg | [N+](=O)([O-])C1=C(C=CC=C1)C1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C20H16N4O6S2
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 12 N, 51 μl | Cl | ClH
catalyst | iron | 59 mg | [Fe] | Fe
solvent | water | 82 μl | O | H2O
product | N-[3-(2-aminophenyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide | 40 mg | NC1=C(C=CC=C1)C1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C20H18N4O4S2
